US07279490B2
5-Bromo-1-[1-[1-(2-methylbenzyl)piperidin-4-yl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one
The title compound was prepared according to the procedure described in Example 18, using 5-bromo-1-[1-(piperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2-H-benzimidazol-2one and 2-methylbenzaldehyde.

reactant | 5-bromo-1-[1-(piperidin-4-yl)piperidin-4-yl]-1,3-dihydro-2-H-benzimidazol-2one | BrC1=CC2=C(N(C(N2)=O)C2CCN(CC2)C2CCNCC2)C=C1 | C17H23BrN4O
reactant | 2-methylbenzaldehyde | CC1=C(C=O)C=CC=C1 | C8H8O
product | 5-Bromo-1-[1-[1-(2-methylbenzyl)piperidin-4-yl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one | BrC1=CC2=C(N(C(N2)=O)C2CCN(CC2)C2CCN(CC2)CC2=C(C=CC=C2)C)C=C1 | C25H31BrN4O
